US03975388
6-(p-Cyclopentylphenyl)-4,5-dihydro-3(2H)-pyridazinone
A solution of 3-(p-cyclopentylbenzoyl)propionic acid (4.9 g.) in warm ethanol (50 ml.) was treated with hydrazine hydrate (1.1 g.) and the mixture heated on the steam bath for 1 hour. The colourless crystalline material which separated, was collected and recrystallised from ethanol to yield the product (4.2 g.) in large, colourless needles, m.p. 191°-192°C.

reactant | 3-(p-cyclopentylbenzoyl)propionic acid | 4.9 g | C1(CCCC1)C1=CC=C(C(=O)CCC(=O)O)C=C1 | C15H18O3
reactant | hydrazine hydrate | 1.1 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(p-Cyclopentylphenyl)-4,5-dihydro-3(2H)-pyridazinone | C1(CCCC1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C15H18N2O
